US06093732
N-((4-Chlorophenyl)methyl)-4-oxo-6,7,8-trifluoro-1-(2-(trimethylsilyl)ethoxy) methyl-3-quinolinecarboxamide (1.00 g) from Preparation No. 13 and methanol (163 μL) are dissolved in DMF (20 mL). Sodium hydride (60% dispersion, 80 mg) is added and the mixture is heated to 140° C. for 1 h. The mixture is allowed to cool to rt, is poured into sat. aq. ammonium chloride (100 mL), and is extracted with ethyl acetate (3×50 mL). The organic layer is washed with brine (10 mL), dried (MgSO4), and concentrated. The crude product is purified by column chromatography (heptane/ethyl acetate, 4/1; 3/1) to afford N-((4-chlorophenyl)methyl)-6,8-difluoro-7-methoxy-4-oxo-1-(2-(trimethylsilyl)ethoxy)methyl-3-quinolinecarboxamide. The resulting crude amide is suspended in ethanol (15 mL), heated to 85° C., and to the mixture is added 50% aq. hydrochloric acid (5 mL). The mixture is heated an additional 1.5 h and allowed to cool to rt. The reaction mixture is neutralized with solid sodium bicarbonate and filtered. The solids are washed with ethanol (10 mL) followed by ethyl acetate (20 mL), and the combined filtrates are concentrated to afford a tan solid. The crude product is purified by recrystallization from acetic acid/water followed by column chromatography (heptane/2-propanol, 95/5) to afford 27 mg of the title compound.

reactant | N-((4-Chlorophenyl)methyl)-4-oxo-6,7,8-trifluoro-1-(2-(trimethylsilyl)ethoxy) methyl-3-quinolinecarboxamide | 1.00 g | ClC1=CC=C(C=C1)CNC(=O)C1=CN(C2=C(C(=C(C=C2C1=O)F)F)F)COCC[Si](C)(C)C | C23H24ClF3N2O3Si
reactant | methanol | 163 μL | CO | CH4O
reactant | Sodium hydride | 80 mg | [H-].[Na+]
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-((4-chlorophenyl)methyl)-6,8-difluoro-7-methoxy-4-oxo-1-(2-(trimethylsilyl)ethoxy)methyl-3-quinolinecarboxamide | ClC1=CC=C(C=C1)CNC(=O)C1=CN(C2=C(C(=C(C=C2C1=O)F)OC)F)COCC[Si](C)(C)C | C24H27ClF2N2O4Si
